US06632815B2
To the solution of 2-naphthylboronic acid (5.00 g, 29.1 mmol) and ethyl 3-methylpyrazole-5-carboxylate (4.48 g, 29.1 mmol) in 100 mL dry dichloromethane (DCM) were added pyridine (4.7 mL, 58.2 mmol) and anhydrous powder of copper(II) acetate (7.94 g, 43.7 mmol). Some activated molecular sieve powder was added afterwards. The resulting slurry was stirred for 2 days under argon. The mixture was diluted with DCM. It was filtered through a celite bed. The blue filtrate was washed with water (X2), dried over MgSO4, concentrated, purified by silica column to yield ethyl 3-methyl-1-(2-naphthyl)-1H-pyrazole-5-carboxylate and its regioisomer in a 1:1 ratio in 70% yield. Rf 0.59 (1:2 EtOAc: hexane), M+H 281; regioisomer, ethyl 5-methyl-1-(2-naphthyl)-1H-pyrazole-3-carboxylate, Rf 0.44 (1:2 EtOAc:hexane). ES-MS: (M+H)+281.

reactant | 2-naphthylboronic acid | 29.1 mmol, 5.00 g | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | ethyl 3-methylpyrazole-5-carboxylate | 29.1 mmol, 4.48 g | CC1=NNC(=C1)C(=O)OCC | C7H10N2O2
reactant | pyridine | 58.2 mmol, 4.7 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | copper(II) acetate | 43.7 mmol, 7.94 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | ethyl 3-methyl-1-(2-naphthyl)-1H-pyrazole-5-carboxylate | 70% yield | CC1=NN(C(=C1)C(=O)OCC)C1=CC2=CC=CC=C2C=C1 | C17H16N2O2
